US06608203B2
1-(4-Iodophenyl)-6-methoxy-3,4-dihydroisoquinoline hydrochloride
Phosphorus pentachloride (11 g, 52.8 mmol) was added in portions to a solution of 4-iodo-N-[2-(3-methoxyphenyl)-ethyl]benzamide (10.1 g, 26 mmol) in CHCl3 (60 ml) at 0° C. under N2. The resulting reaction was stirred at 0° C. for 10 min, then warmed to rt and stirred at rt for 18 hr. After cooling to 0° C., hexane (500 ml) was added and the resulting suspension was allowed to settle. The solvent was decanted off from the oil that separated and the remaining oil was triturated with EtOH (20 ml) to give a white solid. Et2O (200 ml) was added, the resulting suspension was stirred for 1 hr, the solid was collected and dried in vacuo to give 7.5 g (72% yield) of white solid.

reactant | Phosphorus pentachloride | 52.8 mmol, 11 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 4-iodo-N-[2-(3-methoxyphenyl)-ethyl]benzamide | 26 mmol, 10.1 g | IC1=CC=C(C(=O)NCCC2=CC(=CC=C2)OC)C=C1 | C16H16INO2
reactant | hexane | 500 ml | CCCCCC | C6H14
reactant | Et2O | 200 ml | CCOCC | C4H10O
solvent | CHCl3 | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Iodophenyl)-6-methoxy-3,4-dihydroisoquinoline hydrochloride | 7.5 g, 72% yield | Cl.IC1=CC=C(C=C1)C1=NCCC2=CC(=CC=C12)OC | InChI=1S/C16H14INO.ClH/c1-19-14-6-7-15-12(10-14)8-9-18-16(15)11-2-4-13(17)5-3-11;/h2-7,10H,8-9H2,1H3;1H
